US04533731
The same procedures for preparing 1-(3-diethylaminopropyl)-3-amino-4-chloroindazole as described in Example 89 were repeated except that 8 g of 3-phthalimidoindazole and 9.5 g of 3-bromopropylpyrrolidine hydrobromide were employed instead of the 3-phthalimido-4-chloroindazole and the 3-bromopropyldiethylamine hydrobromide, respectively. As a result, 8.2 g of 1-(3-pyrrolidinopropyl)-3-aminoindazole was obtained.

reactant | 1-(3-diethylaminopropyl)-3-amino-4-chloroindazole | C(C)N(CCCN1N=C(C2=C(C=CC=C12)Cl)N)CC | C14H21ClN4
reactant | 3-phthalimidoindazole | 8 g | C1(C=2C(C(N1C1=NNC3=CC=CC=C13)=O)=CC=CC2)=O | C15H9N3O2
reactant | 3-bromopropylpyrrolidine hydrobromide | 9.5 g | Br.BrCCCN1CCCC1
reactant | 3-phthalimido-4-chloroindazole | C1(C=2C(C(N1C1=NNC3=CC=CC(=C13)Cl)=O)=CC=CC2)=O | C15H8ClN3O2
reactant | 3-bromopropyldiethylamine hydrobromide | Br.BrCCCN(CC)CC
product | 1-(3-pyrrolidinopropyl)-3-aminoindazole | 8.2 g | N1(CCCC1)CCCN1N=C(C2=CC=CC=C12)N | C14H20N4
